US05298577
Ethylene/vinyl acetate/glycidyl methacrylate copolymer
The cascade of autoclaves of example 1 is continuously charged with 458 g/h of ethylene, a mixture A (1200 ml/h) consisting of 6000 g of vinyl acetate (d=0.79 g/ml), 1000 g of tert.-butanol and 150 g of glycidyl methacrylate (d=1.042 g/ml), a solution B (100 ml/h) consisting of 300 g of vinyl acetate and 500 g of tert.-butanol and a mixture C (100 ml/h) consisting of 150 g of glycidyl methacrylate, 657 g of tert.-butanol and 8 g of tert.-butyl perpivalate. Mixture C is introduced into autoclave 3 and all the other monomers or monomer mixtures (mixture A, solution B and ethylene) are introduced into autoclave 1 via the premix autoclave. The product stream passes through all autoclaves. The internal reactor temperatures are T1=70° C., T2=73° C., T3=75° C. and T4=85° C. The operating pressure is 300 bar. When equilibrium is reached samples are taken from the individual autoclaves through sluices. Unused ethylene is depressurised with caution and discharged. The degassed samples have solids contents of 15 to 30% by weight. The Mooney viscosity is 4 (ML-4/100° C.); (glycidyl methacrylate content: 8.5% by weight).

reactant | ethylene | C=C | C2H4
reactant | vinyl acetate | 6000 g | C(C)(=O)OC=C | C4H6O2
reactant | glycidyl methacrylate | 150 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | vinyl acetate | 300 g | C(C)(=O)OC=C | C4H6O2
reactant | glycidyl methacrylate | 150 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
solvent | tert.-butanol | 657 g | C(C)(C)(C)O | C4H10O
solvent | tert.-butanol | 500 g | C(C)(C)(C)O | C4H10O
solvent | tert.-butanol | 1000 g | C(C)(C)(C)O | C4H10O
product | Ethylene/vinyl acetate glycidyl methacrylate | C=C.C(C)(=O)OC=C.C(C(=C)C)(=O)OCC1CO1 | InChI=1S/C7H10O3.C4H6O2.C2H4/c1-5(2)7(8)10-4-6-3-9-6;1-3-6-4(2)5;1-2/h6H,1,3-4H2,2H3;3H,1H2,2H3;1-2H2
